US07727988B2
1-(3,3-Dimethoxy-propyl)-5-pyridazin-3-yl-1H-pyrimidine-2,4-dione (Prep122)
A mixture of 5-pyridazin-3-yl-1H-pyrimidine-2,4-dione hydrochloride (Prep121, 656 mg, 2.89 mmol), 3-bromo-1,1dimethoxy-propane (609 mg, 3.33 mmol) and K2CO3 (400 mg, 2.89 mmol) in DMSO (10 ml) was stirred for 24 hours at room temperature. 3-Bromo-1, 1dimethoxy-propane (100 mg, 0.55 mmol) was then added and the reaction was left for 11 days at room temperature. 3-Bromo-1,1dimethoxy-propane (100 mg, 0.55 mmol) was further added and stirring continued for additional 6 days. The mixture was lyophilized and the residue washed with diethyl ether and filtrate. The solid washed with ethyl acetate. After evaporation of the organic phase, 200 mg of the title compound as a light brown powder was obtained (24% yield).

reactant | 5-pyridazin-3-yl-1H-pyrimidine-2,4-dione hydrochloride | 2.89 mmol, 656 mg | Cl.N1=NC(=CC=C1)C=1C(NC(NC1)=O)=O
reactant | 3-bromo-1,1dimethoxy-propane | 3.33 mmol, 609 mg | BrCCC(OC)OC | C5H11BrO2
reactant | K2CO3 | 2.89 mmol, 400 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Bromo-1, 1dimethoxy-propane | 0.55 mmol, 100 mg | BrCCC(OC)OC | C5H11BrO2
reactant | 3-Bromo-1,1dimethoxy-propane | 0.55 mmol, 100 mg | BrCCC(OC)OC | C5H11BrO2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-(3,3-Dimethoxy-propyl)-5-pyridazin-3-yl-1H-pyrimidine-2,4-dione | 200 mg, 24% yield | COC(CCN1C(NC(C(=C1)C=1N=NC=CC1)=O)=O)OC | C13H16N4O4
